US06500803B1
a) Naphthalene-2-sulfonic Acid (3-aminomethylbenzyl)amide
α,α′-Diamino-m-xylene (24 g, 176 mmol) was dissolved in 50 ml 1,4-dioxane, and at 15-20° C. naphthalene-2-sulfonyl chloride (4 g, 17.6 mmol) dissolved in 50 ml of 1,4-dioxane was slowly added over 3 hours under stirring. Stirring was continued at RT. After standing overnight the formed precipitate was filtered off and the filtrate concentrated in vacuo. The residue was distributed between DCM and water. The organic layer was separated and washed with water and 1 N HCl. The oily layer formed between the organic and aqueous layer was separated. It solidified on standing. This solid material was treated with ethyl acetate, sucked off, and washed with ethyl acetate. The residue was dissolved in water and treated with potassium carbonate solution. The aqueous solution was extracted three times with ethyl acetate, and the combined organic phases were dried over magnesium sulfate, filtered, and concentrated to yield 3.2 g of the title compound. MS=327.3 (M+H)+.

reactant | α,α′-Diamino-m-xylene | 176 mmol, 24 g | NCC1=CC(=CC=C1)CN | C8H12N2
reactant | naphthalene-2-sulfonyl chloride | 17.6 mmol, 4 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | Naphthalene-2-sulfonic Acid (3-aminomethylbenzyl)amide | 3.2 g | NCC=1C=C(CNS(=O)(=O)C2=CC3=CC=CC=C3C=C2)C=CC1 | C18H18N2O2S
